US07153968B2
Step 1: 4—Chloro-3-tributylstannanyl-pyridine
To a solution of LDA (1.2 eq.) in THF (0.2M) at −78° C. was added 4-chloro-pyridine (1.0 eq.). The mixture was stirred for 1.5 h at −78° C. then Bu3SnCl (1.5 eq.) was added. The final mixture was slowly warmed to rt, poured in saturated aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (Hex:EtOAc; 95:5) afforded the title compound as an oil.

reactant | LDA | 1.2 eq. | [Li+].CC(C)[N-]C(C)C
reactant | 4-chloro-pyridine | 1.0 eq. | ClC1=CC=NC=C1 | C5H4ClN
reactant | Bu3SnCl | 1.5 eq. | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | THF | 0.2M | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 4—Chloro-3-tributylstannanyl-pyridine | ClC1=C(C=NC=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C5H3ClN.3C4H9.Sn/c6-5-1-3-7-4-2-5;3*1-3-4-2;/h1,3-4H;3*1,3-4H2,2H3;
